US07615642B2
Step B: 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carbaldehyde
NaH (0.49 mg, 60%, 12.4 mmol) was a solution of 1H-Pyrrole-3-carbaldehyde (0.21 mg, 2.47 mmol) in THF (30 mL) at 0° C. The reaction mixture was allowed to warm to room temperature, stirred for 1 hour at room temperature and cooled down to 0° C. again. 2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (1.1 g, 20.97 mmol) was added slowly, allowed the reaction to warm to room temperature and stirred for 1 hour. The reaction mixture was quenched with NaHCO3 (5 mL), diluted with EtOAc (100 mL), washed with brine (2×15 mL) and dried over Na2SO4. The crude product was purified by MPLC on silica gel using Hexane/EtOAc (1:1) to give 0.44 g (34%) of a white solid as the title compound. 1H NMR (400 MHz, CHLOROFORM-D) δ 1.45-1.55 (m, 4 H), 1.56 (s, 9 H), 2.16-2.31 (m, 1 H), 3.25-3.35 (m, 2 H), 3.94-4.02 (m, 2 H), 4.22 (d, J=7.42 Hz, 2 H), 6.67 (dd, J=3.42, 1.66 Hz, 1 H), 7.18-7.22 (m, 1 H), 7.44 (d, J=8.79 Hz, 1 H), 7.76-7.82 (m, 2 H) 8.36 (d, J=1.76 Hz, 1 H) 9.79 (s, 1 H); MS (ESI) (M+H)+=430.00.

reactant | NaH | 12.4 mmol, 0.49 mg | [H-].[Na+]
reactant | 1H-Pyrrole-3-carbaldehyde | 2.47 mmol, 0.21 mg | N1C=C(C=C1)C=O | C5H5NO
reactant | 2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 20.97 mmol, 1.1 g | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carbaldehyde | 0.44 g, 34% | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C=O | C22H27N3O4S
